US09447091B2
N-(5-(6-(1-(cyclopropylmethyl)-1H-1,2,3-triazol-4-yl)-3H-imidazo[4,5-b]-pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)ethanesulfonamide
To a solution of 5-(6-(1-(cyclopropylmethyl)-1H-1,2,3-triazol-4-yl)-3H-imidazo-[4,5-b]pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-amine (50 mg, 0.112 mmol) in DCM was added pyridine (26 mg, 0.33 mmol, 3.0 eq.) and ethanesulfonyl chloride (17 mg, 0.135 mmol, 1.2 eq.). After completion of the reaction the solvent was distilled off and the crude product was purified by preparative HPLC to give the product in 33% yield (20 mg). 1H NMR (300 MHz, DMSO): δ 10.3 (s, 1H) 9.02-8.99 (m, 2H), 8.81 (d, 1H), 8.63-8.61 (d, 1H) 7.95 (d, 1H), 7.77-7.69 (m, 2H), 7.49-7.42 (m, 2H), 7.31-7.25 (d, 1H), 4.33 (d, 2H), 3.42-3.26 (m, 2H), 1.34-1.24 (t, 3H), 0.63-0.60 (t, 2H), 0.49-0.48 (t, 2H); LC-MS (ESI): Calculated mass: 535.5; Observed mass: 535.8 [M+H]+ (rt: 0.1.33 min).

reactant | 5-(6-(1-(cyclopropylmethyl)-1H-1,2,3-triazol-4-yl)-3H-imidazo-[4,5-b]pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-amine | 0.112 mmol, 50 mg | C1(CC1)CN1N=NC(=C1)C=1C=C2C(=NC1)N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)N | C24H19F2N7
reactant | pyridine | 0.33 mmol, 26 mg, 3.0 eq. | N1=CC=CC=C1 | C5H5N
reactant | ethanesulfonyl chloride | 0.135 mmol, 17 mg, 1.2 eq. | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(5-(6-(1-(cyclopropylmethyl)-1H-1,2,3-triazol-4-yl)-3H-imidazo[4,5-b]-pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)ethanesulfonamide | 33% yield | C1(CC1)CN1N=NC(=C1)C=1C=C2C(=NC1)N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)NS(=O)(=O)CC | C26H23F2N7O2S
